US08071586B2
A) (S)-4-(2-Hydroxy-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid benzyl ester
A solution of (S)—N-(benzyloxycarbonyl)-2-aminobutane-1,4-diol (8.00 g, 33.4 mmol) and toluene-4-sulfonic acid monohydrate (318 mg, 1.67 mmol) in 2,2-dimethoxypropane (320 mL) was stirred at room temperature, then after 2 h 2-methoxypropene (7.71 g, 107 mmol) was added, then after 72 h the reaction mixture was partitioned between ethyl acetate and sat. aq. sodium hydrogencarbonate solution. The organic layer was dried (MgSO4), filtered, and evaporated. The residue was taken up in dichloromethane (200 mL), then after addition of SiO2 (80 g) and water (4.8 mL) the slurry was stirred for 64 h at room temperature. After dilution with dichloromethane and addition of anhydrous magnesium sulfate, insoluble material was removed by filtration through diatomaceous earth. The filtrate was evaporated and chromatographed (SiO2; heptane/ethyl acetate 1:1) to afford the title compound (8.92 g, 96%). Light yellow oil, MS (ISP)=280.1 (M+H)+.

reactant | (S)—N-(benzyloxycarbonyl)-2-aminobutane-1,4-diol | 33.4 mmol, 8.00 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)CCO | C12H17NO4
reactant | 2-methoxypropene | 107 mmol, 7.71 g | COC(=C)C | C4H8O
solvent | 2,2-dimethoxypropane | 320 mL | COC(C)(C)OC | C5H12O2
catalyst | toluene-4-sulfonic acid monohydrate | 1.67 mmol, 318 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (S)-4-(2-Hydroxy-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid benzyl ester | 8.92 g, 96% | C(C1=CC=CC=C1)OC(=O)N1C(OC[C@@H]1CCO)(C)C | C15H21NO4
